US07335658B2
6-[4-(2-CHLORO-5-DIMETHYLAMINOBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2-chloro-5-dimethylaminobenzoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)-amide, the title compound was obtained as a white solid (53% yield). 1H NMR (300 MHz, CDCl3) δ 8.04, 7.96, 7.39, 6.94, 6.66, 6.55, 4.14-3.32, 2.93, 1.52, 0.75-0.69, 0.48-0.42, 0.11-0.05. MS (ES+) m/z 457.4 (M+1).

reactant | 2-chloro-5-dimethylaminobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)N(C)C | C9H10ClNO2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)-amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-CHLORO-5-DIMETHYLAMINOBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC(=C1)N(C)C)Cl)=O | C23H29ClN6O2
